Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Lightheadedness, Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ hx of endocarditis from IVDU, sober ___ years now on 
Buprenorphine, complicated by hole in her heart, septic emboli 
to brain w/ stroke as well as intra-abdominally, recovered w/ 
abx treatment only and is followed by cardiology at ___ 
___, presents today w/ acute onset sharp and pressure-like 
anterior chest pain, left arm tingling, and presyncope. She felt 
lightheaded, like she was going to pass out. Denies headache. No 
vision changes. Has some tingling in arms, but no weakness. Has 
felt subjective fevers. No cough. No abd pain but does have 
nausea. No change in urine/stools. Has had increased stress in 
her life recently with death of a friend and complicated 
relationship. She does endorse feeling anxious about her 
symptoms.  
 Her symptoms did not improve with sitting down or with fluid, 
and she felt dizzy while walking around, so she presented to the 
ED.  
 In the ED, initial vitals were:  
 98.2, 112, 140/85, 18, 98% RA  
 Exam notable for: Neuro intact, no murmur, anxious appearing  
 Labs notable for: Negative D-Dimer  
 Imaging notable for: Negative CXR  
 Patient was given: 1L NS with improvement in HR  
 Decision was made to admit for r/o endocarditis, blood culture 
surveillance  
 
 On the floor, pt confirms the above story. Now feeling better. 
Currently without any chest pain or pressure.  
 
 ROS:  
 (+) Per HPI  
 (-) x10 systems other than those discussed in HPI. Also denies 
rash  
 
Past Medical History:
Prior endocarditis c/b septic emboli to liver, brain (with 
stroke), kidney, lungs, and spleen  
 Traumatic brain injury  
 Mitral Valve Prolapse  
 HTN  
 
Social History:
___
Family History:
None pertinent
 
Physical Exam:
ADMISSION EXAM:
Vital Signs: 98.3, 118/101, 69, 18, 99 RA  
 General: Alert, oriented x3, no acute distress, well appearing 
but does appear slightly anxious  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities 

DISCHARGE EXAM:
General: A&Ox3. NAD. Well-appearing female. 
HEENT: MMM. PERRL. 
CV: RRR. Normal S1, S2. No murmurs, rubs, gallops.
Pulm: CTAB. No murmurs, rubs, gallops. 
Abdomen: +BS. Soft, nontender, nondistended. 
Lower Ext: No edema bilaterally. DP pulses 2+ and equal.
Neuro: CN II-XII intact. No focal deficits. 

 
Pertinent Results:
ADMISSION LABS:
___ 04:03PM   D-DIMER-212
___ 03:40PM   GLUCOSE-92 UREA N-23* CREAT-0.8 SODIUM-136 
POTASSIUM-4.4 CHLORIDE-100 TOTAL CO2-21* ANION GAP-19
___ 03:40PM   CALCIUM-10.1 PHOSPHATE-2.4* MAGNESIUM-2.0
___ 03:40PM   WBC-8.9 RBC-4.42 HGB-13.3 HCT-39.7 MCV-90 
MCH-30.1 MCHC-33.5 RDW-13.0 RDWSD-42.7
___ 03:40PM   NEUTS-52.3 ___ MONOS-5.4 EOS-1.5 
BASOS-0.3 IM ___ AbsNeut-4.65 AbsLymp-3.58 AbsMono-0.48 
AbsEos-0.13 AbsBaso-0.03
___ 03:31PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-POS* oxycodn-NEG mthdone-NEG
___ 03:31PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-2* PH-7.0 LEUK-NEG

DISCHARGE LABS:
___ 05:20AM BLOOD WBC-6.4 RBC-4.14 Hgb-12.5 Hct-40.2 
MCV-97# MCH-30.2 MCHC-31.1* RDW-13.2 RDWSD-46.3 Plt ___
___ 05:20AM BLOOD Glucose-85 UreaN-23* Creat-0.7 Na-140 
K-4.3 Cl-105 HCO3-20* AnGap-19
___ 05:20AM BLOOD ALT-11 AST-22 AlkPhos-52 TotBili-<0.2
___ 05:20AM BLOOD Albumin-3.8 Calcium-8.7 Phos-4.7* Mg-1.9
___ 05:20AM BLOOD TSH-0.56
___ 05:20AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-6* 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

MICROBIOLOGY:
Blood cultures x2 on ___: pending. Negative at discharge x 
>24hrs. 
Blood cultures x 2 on ___: pending. Negative at discharge x 
>24hrs. 

IMAGING/STUDIES:
CXR ___ IMPRESSION:  
  
No acute intrathoracic process. 

 
Brief Hospital Course:
___ y/o F w/ PMH endocarditis in ___ c/b septic emboli, h/o 
IVDA, HTN p/w acute onset sharp, anterior chest pain, 
lightheadedness. Patient also felt flushed, subjectively 
feverish intermittently as well. Vitals were stable in the ED. 
Patient had negative D-dimer to rule out PE. CXR WNL. EKG in ED 
was sinus tachycardia with no ST changes. Troponins x2 were 
negative. Patient received 1L NS and HR improved. Blood cx were 
drawn due to h/o endocarditis, negative x 24hrs. Patient was 
admitted for pre-syncopal work-up. Symptoms were felt likely due 
to hypovolemia/orthostatic pre-syncope vs less likely infectious 
etiology given subjective fevers. Tele/repeat EKG normal sinus 
rhythm. Serum/Urine tox were negative. UA showed no signs of 
infection. Patient reported significant life stressors including 
loss of a close friend and planning to restart school. Has 
history of panic/anxiety attacks in the past. After ruling out 
other worrisome causes of pre-syncope/chest pain, her episode 
was felt to be due partly due to anxiety. Patient symptoms 
improved without management. 

 # Pre-syncope: Patient was admitted or syncopal evaluation 
given history of lightheadedness. EKG was negative other than 
showing sinus tachycardia. Telemetry remained negative therefore 
cardiogenic syncope unlikely. Ischemia unlikely in a young 
healthy female. Urine and serum tox screens were negative for 
cocaine use and other drugs. Patient was tachycardic on 
admission that improved with 1L NS, therefore there was likely 
an element of hypovolemic or orthostatic hypotension in the 
patient's episode. Vaso-vagal syncope is possible although 
unlikely given history and no previous episodes of syncope in 
the past. Infectious work up was also negative. Since patient 
had history of panic attacks in the past and endorsed increased 
stress and anxiety currently, her episode was felt to be 
contributed to by anxiety. 

#Subjective fevers: Concerning given pre-syncope and history of 
endocarditis. Patient denies any current drug use. Blood 
cultures were obtained on ___ and ___ and did not grow any 
bacteria. Patient never became febrile during hospitalization. 
Other possible sources of infection including PNA, UTI were 
ruled out. Patient did not have any other symptoms concerning 
for infectious source. She was discharged with instructions to 
return to the ED or call her PCP if she spikes fevers at home 
documented with her home thermometer.  

 # Psych: ADHD, history of migraine HA, anxiety:
 - Continued home Vyvanse (taking home meds), Gabapentin, 
Clonidine  
 
 # HTN: stable.  
 - c/h Lisinopril, Propanolol 
 
 # Prior opioid use  
 - c/h Buprenorphine  

TRANSITIONAL ISSUES:
[ ] F/U final blood culture results. 
[ ] Patient instructed to seek medical attention if spikes true 
fevers at home. (Has home thermometer)
Code: Full Code
Emergency Contact: ___ (Boyfriend) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Buprenorphine 4 mg SL BID 
2. Vyvanse (lisdexamfetamine) 50 mg oral QAM 
3. Vyvanse (lisdexamfetamine) 20 mg oral q12pm 
4. Lisinopril 10 mg PO DAILY 
5. Gabapentin 300 mg PO BID 
6. CloNIDine 0.1 mg PO BID 
7. Propranolol 10 mg PO DAILY 

 
Discharge Medications:
1.  Buprenorphine 4 mg SL BID  
2.  CloNIDine 0.1 mg PO BID  
3.  Gabapentin 300 mg PO BID  
4.  Lisinopril 10 mg PO DAILY  
5.  Propranolol 10 mg PO QPM  
6.  Vyvanse (lisdexamfetamine) 50 mg oral QAM  
7.  Vyvanse (lisdexamfetamine) 20 mg oral q12pm  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses: Chest Pain, Anxiety

Secondary Diagnoses: H/o Endocarditis, HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ for 
evaluation of dizziness and chest pain. While you were admitted, 
your blood tests did not show signs of infection, and your EKG 
did not show any concerns regarding your heart. Your vital signs 
stayed stable. We think your symptoms were related to anxiety.

If you have a fever, please check your temperature. If 100.4 F 
or greater, report back to ED or call your PCP. 

Please follow up with your primary ___ doctor in the next week. 


It was a pleasure taking ___ of you at ___ Deaconess.

___, 
Your ___ ___ Team
 
Followup Instructions:
___